US07176217B2
To a solution of ethyl (3R)-2-[(4-methoxyphenyl)sulfonyl]-2-azabicyclo[2.2.2]octane-3-carboxylate (399 mg, 1.13 mmol) in tetrahydrofuran (7 ml)-methanol (4 ml) was added 1N sodium hydroxide (7 ml), and the mixture was stirred at 65° C. for 12 hours. The reaction mixture was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated, to give (3R)-2-[(4-methoxyphenyl)sulfonyl]-2-azabicyclo[2.2.2]octane-3-carboxylic acid.

reactant | ethyl (3R)-2-[(4-methoxyphenyl)sulfonyl]-2-azabicyclo[2.2.2]octane-3-carboxylate | 1.13 mmol, 399 mg | COC1=CC=C(C=C1)S(=O)(=O)N1C2CCC([C@@H]1C(=O)OCC)CC2 | C17H23NO5S
reactant | methanol | 4 ml | CO | CH4O
reactant | sodium hydroxide | 1N, 7 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | (3R)-2-[(4-methoxyphenyl)sulfonyl]-2-azabicyclo[2.2.2]octane-3-carboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)N1C2CCC([C@@H]1C(=O)O)CC2 | C15H19NO5S
